US06166208
Step C: Preparation of 6 -Iodo-2 -propoxy-3-propyl-4(3H)-quinazolinone
To a solution of 0.38 g (1.44 mmoles) of 2-amino-5-iodobenzoic acid and 0.14 g (1.38 mmol) of triethylamine in 7.15 mL of n-propanol was added 0.25 g (1.143 mmol) of S-methyl O-propyl propylcarbonimidothioate. The reaction mixture was stirred at room temperature for 18 h, heated to 60° C. for 24 h, and then heated to reflux for 6 h. The reaction was then concentrated under reduced pressure to give about 0.6 g of crude material, which was purified by flash chromatography on silica (93:7 hexanes:ethyl acetate) to give 0.21 g of the title compound, 1H NMR (400 MHz, CDCl3): δ0.96 (t,3H); 1.06 (t,3H); 1.64-1.79 (m,2H); 1.81-1.92 (m,2H); 4.05 (t,2H); 4.43 (t,2H), 7.19 (d,1H); 7.85 (dd,1H); 8.49 (d,1H). In addition, 0.11 g of propyl-5-iodoanthranilate was obtained from the flash chromatography, 1H NMR (400 MHz, CDCl3): δ1.02 (t,3H); 1.76-1.86 (m,2H); 4.23 (t,2H); 5.8 (br s,2H); 6.45 (d,1H); 7.45 (dd, 1H); 8.13 (d,1H).

reactant | 2-amino-5-iodobenzoic acid | 1.44 mmoles, 0.38 g | NC1=C(C(=O)O)C=C(C=C1)I | C7H6INO2
reactant | triethylamine | 1.38 mmol, 0.14 g | C(C)N(CC)CC | C6H15N
reactant | S-methyl O-propyl propylcarbonimidothioate | 1.143 mmol, 0.25 g | C(CC)N=C(OCCC)SC | C8H17NOS
solvent | n-propanol | 7.15 mL | C(CC)O | C3H8O
product | 6 -Iodo-2 -propoxy-3-propyl-4(3H)-quinazolinone | 0.21 g | IC=1C=C2C(N(C(=NC2=CC1)OCCC)CCC)=O | C14H17IN2O2
